US08106070B2
benzyl{1-[4-(2,2-dimethylbutyl) -1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]-1-methylethyl}carbamate
Ammonium acetate (2.53 g, 32.79 mmol) was added to an ambient temperature solution of benzyl {2-[(4,4-dimethyl-2-oxohexyl)amino]-1-[4-(5-fluoropyridin-2-yl)benzyl]-1-methyl-2-oxoethyl}carbamate (350 mg, 0.66 mmol) in xylenes (minimal volume). After stirring in a sealed tube at 160° C. for 1 hr, the reaction mixture was poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated. High pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.05% trifluoroacetic acid afforded the title compound. (M+H) found: 515.

reactant | Ammonium acetate | 32.79 mmol, 2.53 g | C(C)(=O)[O-].[NH4+]
reactant | benzyl {2-[(4,4-dimethyl-2-oxohexyl)amino]-1-[4-(5-fluoropyridin-2-yl)benzyl]-1-methyl-2-oxoethyl}carbamate | 0.66 mmol, 350 mg | CC(CC(CNC(C(C)(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)NC(OCC1=CC=CC=C1)=O)=O)=O)(CC)C | C31H36FN3O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | benzyl{1-[4-(2,2-dimethylbutyl) -1H-imidazol-2-yl]-2-[4-(5-fluoropyridin-2-yl)phenyl]-1-methylethyl}carbamate | C(C1=CC=CC=C1)OC(NC(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)(C)C=1NC=C(N1)CC(CC)(C)C)=O | C31H35FN4O2
